US07265246B2
3-Benzoimidazol-1-yl-propylamine
Prepare a suspension of sodium hydride (812 mg, 20 mmol) in tetrahydrofuran (50 mL). Add benzimidazole (2 g, 16.9 mmol) under nitrogen. Reflux the mixture for 1 hour. At the same time, add 3-bromopropylamine hydrobromide (3.7 g, 16.9 mmol) to a suspension of sodium hydride (676 mg, 16.9 mmol) under nitrogen and reflux the mixture for 1 hour. Combine the two mixtures and reflux for 2 hours. Filter the reaction mixture, concentrate the filtrate to an oil, basify with sodium hydroxide and extract with ethyl acetate (3×50 mL). Concentrate the combined organic layers to an oil. Perform chromatography (silica gel, 9:1 methylene chloride/MeOH) to afford the title compound (780 mg) MS: m/e=176 (MH+)

reactant | sodium hydride | 20 mmol, 812 mg | [H-].[Na+]
reactant | benzimidazole | 16.9 mmol, 2 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 3-bromopropylamine hydrobromide | 16.9 mmol, 3.7 g | Br.BrCCCN
reactant | sodium hydride | 16.9 mmol, 676 mg | [H-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-Benzoimidazol-1-yl-propylamine | 780 mg | N1(C=NC2=C1C=CC=C2)CCCN | C10H13N3
